Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dysarthria/facial droop
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is an ___ year old right handed man followed by ___ 
___
for vascular parkinsonism / cognitive deficit, with history of
atrial fibrillation on ASA, and diabetes who presents from 
___ for further workup of facial droop and dysarthria in
setting of fall.  Per report, Mr. ___ was in his usual state of
health this morning when he was in the bathroom when he suddenly
felt that his legs were going to give out on him.  He reported
slumping to the ground and having minor impact of the head on 
the
side of the toilet seat.  He at this time noted that he was
aware, but did not feel as if he could rise to his feet.  He was
taken to ___ where he was found to have altered
mental status not further elaborated on in notes, slurred speech
and bilateral lower extremity weakness in the setting of
hypoglycemia to the ___.  After treatment with an ampule of D50,
his strength and mental status improved; however, on 
reevaluation
of the patient he was still noted to have slurred speech with
slight left-sided facial droop (given at that time NIHSS 2 for
these sx).  A noncontrast head CT demonstrated a 12 mm rounded
hyperdensity in the midbrain possibly representing hemorrhage
versus neoplastic lesion, for which he was transferred to ___
for further evaluation. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech, although on repeat 
questioning
he noted his voice "may be a bit off".  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Notes gait is weak for left ___ weakness > Right.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits. 
Notes baseline decreased flow with urination.  Denies 
arthralgias
or myalgias. Denies rash.

 
Past Medical History:
- TIA ___ - had inability to control the first three fingers of 
his left hand x 30mins
- Type 2 Diabetes 
- Hypertension 
- Hyperlipidemia
- Atrial fibrillation on aspirin (no full AC ___ fall risk)
- Vascular Cognitive Impairment/Parkinsonism followed by ___ c/b significant frontal symptoms and abulia as well as
difficulties with ambulation. Has history of multiple falls in 
the past.
- Prostate cancer s/p radical prostatectomy

 
Social History:
___
Family History:
- His mother died at age ___ from dementia, most likely
Alzheimer's disease.  
- His father died at age ___ from a myocardial infarction.

 
Physical Exam:
Vitals:
Pain=0, T=97.4F, HR=60, BP=149/96, RR=18, SaO2=96% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate a majority
of history without difficulty.  Language is fluent with intact
repetition and comprehension.  Normal prosody.  There were no
paraphasic errors.  Pt. was able to name both high and low
frequency objects.  Able to read without difficulty.  Speech was
dysarthric most notable for post lingual "Ga" and "Ha" sounds. 
Able to follow both midline and appendicular commands. 
Attentive, with no evidence of apraxia or neglect. Calculations
impaired.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus; upgaze limited, saccadic
intrusions.
V: Facial sensation intact to light touch, temperature in all
distributions, and ___ strength noted bilateral in masseter
VII: Exceedingly subtle asymmetry in face with left facial 
droop,
but decreased excursion of the right mouth. Facial musculature
symmetric and ___ strength in upper and lower distributions,
bilaterally 
VIII: Hearing intact to finger-rub and tuning fork bilaterally.
IX, X: Decreased Palatial elevation bilaterally with midline
uvula.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and is equal ___ strength
bilaterally as evidenced by tongue-in-cheek testing.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___  ___  5   4+  5   4+  3    4+    3   3
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    1
R   2    2     2     2    1
- Plantar response was flexor on right, extensor on left
- Pectoralis Jerk was absent, and Crossed Adductors are absent. 
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF, HKS bilaterally was reduced

-Gait: Able to stand but unsteady so aborted further evaluation.
 
Pertinent Results:
ADMISSION LABS: 
___ 11:53PM BLOOD WBC-10.0 RBC-4.26* Hgb-13.9* Hct-40.0 
MCV-94 MCH-32.7* MCHC-34.8 RDW-14.6 Plt ___
___ 11:53PM BLOOD Neuts-87.1* Lymphs-9.2* Monos-2.6 Eos-0.9 
Baso-0.2
___ 08:30AM BLOOD ___ PTT-29.8 ___
___ 11:53PM BLOOD Glucose-91 UreaN-24* Creat-1.1 Na-136 
K-4.7 Cl-105 HCO3-16* AnGap-20
___ 08:30AM BLOOD Albumin-3.8 Calcium-9.3 Phos-3.7 Mg-2.0 
Cholest-196
___ 08:30AM BLOOD ALT-11 AST-18 LD(LDH)-158 CK(CPK)-40* 
AlkPhos-95 TotBili-0.7
___ 08:30AM BLOOD %HbA1c-6.1* eAG-128*
___ 08:30AM BLOOD Triglyc-44 HDL-72 CHOL/HD-2.7 LDLcalc-115
___ 08:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS: 
___ 06:40AM BLOOD WBC-11.0 RBC-4.19* Hgb-13.5* Hct-39.0* 
MCV-93 MCH-32.3* MCHC-34.6 RDW-14.9 Plt ___
___ 06:40AM BLOOD Neuts-77.4* Lymphs-14.0* Monos-6.5 
Eos-1.9 Baso-0.2
___ 06:40AM BLOOD Glucose-124* UreaN-23* Creat-0.9 Na-138 
K-3.8 Cl-104 HCO3-26 AnGap-12

IMAGING: 

ECHO 
 The left atrium is mildly dilated. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. The estimated right atrial pressure is 
___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Mild (1+) aortic regurgitation is seen. Mild (1+) 
mitral regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial effusion.

CT HEAD ___: 
1.  Hyperdensity in the midbrain is not significantly changed 
with exam
performed seven hours prior to the study, but is new from prior 
MR from ___.  This may represent a midbrain  hemorrhage. 
MRI can help for further assessment to exclude underlying 
lesion.
2.  Chronic changes include brain atrophy, sequela of chronic 
small vessel
ischemic disease, atherosclerotic calcification of the carotid 
siphons, and
complete opacification of the right maxillary sinus.

CXR ___: 
Increased opacity in the right lower lobe with peribronchial 
wall
thickening, likely reflective of chronic or recurrent infection 
such as
chronic aspiration.

MRI ___: 
Small acute midbrain hemorrhage with subtle enhancement.  
Differential
diagnosis includes underlying lesion, amyloid angiopathy, or 
cavernous
malformation.    In the setting of additional chronic micro 
hemorrhage within the left cerebellar hemisphere, amyloid more 
likely.  Recommend MR in ___ weeks for re-evaluation.  

CTA HEAD/NECK: ___
Expected evolution of midbrain hemorrhage.  No new hemorrhage or 
mass-effect identified.   Age-related involutional and chronic 
microangiopathic changes.  CTA demonstrates no evidence of 
dissection, aneurysm greater than 3 mm, pseudoaneurysm, or AVM.  


CT HEAD ___:
1.  Hyperdensity in the midbrain not significantly changed from 
prior study, likely consistent with midbrain hemorrhage.  2. 
Chronic changes as described above.  
 
Brief Hospital Course:
___ year-old right handed man with a history of vascular 
parkinsonism, HTN, hyperlipidemia, remote prostate cancer s/p 
prostatectomy who presented with hypoglycemia to ___, slurred 
speech and left sided weakness. After correction of his 
hypoglycemia, his weakness largely resolved (there is an element 
of chronic LLE weakness), but he continued to have dysarthria, 
especially on gutteral sounds. CT head and MRI brain show a 
discrete area of hemorrhage into the midbrain that was stable in 
size. 

# Midbrain hemorrhagic lesion: Stable in size after consecutive 
imaging. Underlying cause thought related to hypertension. 
Amyloid angiopathy less likely , as there is evidence of only on 
microhemorrhage in the left cerebellar hemisphere Possible 
underlying AVM versus mass are less likely, as it is difficult 
to fully visualize that area given hemorrhage and surrounding 
edema. MRI from ___ does not reveal underlying vascular 
malformation in the area which makes this much less likely as a 
possibility. BPs were labile, with orthostatic hypotension and 
supine hypertension, most likely related to dysautonomia that 
accompanies patient's ___ syndrome.  BPs were 
ultimately controlled with amlodipine 10mg, lisinopril 40mg, and 
labetalol 200mg HS.  Antiplatelets and blood thinners were held, 
with plan to restart aspirin in 2 weeks (on ___.  

# Atrial fibrillation: long history of pAF, not anticoagulated 
because of many falls in the past. During this admission, he was 
periodically in atrial fibrillation, but there was no RVR.  His 
aspirin was held in light of midbrain hemorrhage with plan to 
restart ASA on ___.  

# Chronic Aspiration/ Dysphagia: He likely has a chronic history 
of aspiration as seen by chronic aspiration changes in RLL on 
CXR. No leukocytosis, fever, or sputum production to indicate 
active pneumonia, thus he was not treated with antibiotics.  
Swallow evaluation revealed some dysphagia with thin liquids, 
thus diet modified to nectar pureed liquids. 

# Diabetes: He has a history of NIDDM, previously on both 
metformin and glipizide. Given that he presented with 
hypoglycemia, his home diabetes regimen was adjusted to include 
only glipizide.

# Vascular Parkinsonism: His deficits were more pronounced in 
the setting of his acute hemorrhage. He is followed by Dr. 
___. Also his labile blood pressures suggest a component of 
vascular parkinsonism. He continued flouxetine, namenda and 
aricept

# Hyperlipidemia: His pravastatin was restarted given current 
LDL was >100.

# Urinary tract infection: UA came back positive on ___ 
concerning for complicated UTI. He is started on 7 days of 
cefpodoxime.

TRANSITIONAL ISSUES: 
1) DC to rehab
2) restart aspirin in 2 weeks (on ___. 
3) Cefopodoxime last dose ___
4) Follow up on urine culture result 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Donepezil 10 mg PO HS 
4. Memantine 5 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Diazepam 5 mg PO QHS:PRN back pain 
7. Fluoxetine 40 mg PO DAILY 
8. Furosemide 20 mg PO ONCE 
9. MetFORMIN (Glucophage) 850 mg PO DAILY 
10. GlipiZIDE XL 5 mg PO DAILY 

 
Discharge Medications:
1. Diazepam 5 mg PO QHS:PRN back pain 
2. Donepezil 10 mg PO HS 
3. Fluoxetine 40 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Memantine 5 mg PO DAILY 
6. Labetalol 200 mg PO QHS 
RX *labetalol 200 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*2
7. Pravastatin 40 mg PO DAILY 
RX *pravastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
8. Furosemide 20 mg PO DAILY 
9. MetFORMIN (Glucophage) 850 mg PO DAILY 
10. Cefpodoxime Proxetil 200 mg PO Q12H UTI Duration: 7 Days 
Start date ___ 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*12 Tablet Refills:*0
11. Amlodipine 10 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: midbrain hemorrhagic stroke
Secondary diagnosis: diabetes mellitus, chronic aspiration, 
dysphagia, hypertension.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

Neurologic: dysarthric speech, baseline left foot drop

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you while you were admitted to 
___.  You were admitted because of difficulty speaking and 
difficulty walking.  After neurologic evaluation and imaging of 
your brain and blood vessels, you were found to have a small 
area of bleeding in your brain, in a part of the brainstem 
called the midbrain. We believe this bleeding is most likely 
related to your high blood pressure, although you may need a 
repeat MRI in a few months to take a better look at this area 
and rule out any underlying blood vessel abnormalities. 

You were monitored closely so that your blood pressure remained 
low and your area of bleeding did not increase.  We have 
increased your amlodipine from 5mg daily to 10mg daily to better 
control your blood pressure, and we have also started you on a 
new blood pressure medication called labetalol.

Because of this bleeding, we have stopped your daily aspirin.  
You may restart your home Aspirin on ___, 2 weeks after we 
first found the bleeding in your brain.

We have also restarted your pravastatin as your cholesterol 
level was high. 

Your diabetes regimen was also adjusted to prevent future 
episodes of hypoglycemia.  Your metformin was continued, but we 
stopped your glipizide.

To better control your blood pressure, we increased your 
amlodipine to 10mg daily and added labetalol 200mg to be taken 
at bed time. 

You were also found to have an urinary tract infection.  We 
started cefpodoxime 200mg twice a day.  Your last dose will be 
on ___.

You were also seen by our speech therapists who recommended 
thickening your liquids to prevent any aspiration. 

If when you return home, you experience worsening of your 
speech, extremity weakness, vision changes or other focal 
neurologic deficits, please seek urgent medical attention. 
 
Followup Instructions:
___